US05877175
1,7-bis(N,N-dimethylamino)-1,6-heptadien-3,4,5-trione 4-(2,4-dichlorophenyl)hydrazone (2.10 g) was dissolved in dry dichloromethane (6 ml), silica gel (19 g) was added and solvent was removed in vacuo. The mixture was heated at 80° C. for 30 minutes and then at 120° C. for 2 hours. After cooling, the product was extracted with acetone and the acetone was removed in vacuo. The oily residue was solidified with diethyl ether to afford 1-(2,4-dichlorophenyl)-3-[3-(N,N-dimethylamino)-1-oxo-2-propenyl]4(1H)-pyridazi- none (1.40 g), m.p. 152°-154° C.

reactant | 1,7-bis(N,N-dimethylamino)-1,6-heptadien-3,4,5-trione 4-(2,4-dichlorophenyl)hydrazone | 2.10 g | ClC1=C(C=CC(=C1)Cl)NN=C(C(C=CN(C)C)=O)C(C=CN(C)C)=O | C17H20Cl2N4O2
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | 1-(2,4-dichlorophenyl)-3-[3-(N,N-dimethylamino)-1-oxo-2-propenyl]4(1H)-pyridazi- none | 1.40 g | ClC1=C(C=CC(=C1)Cl)N1N=C(C(C=C1)=O)C(C=CN(C)C)=O | C15H13Cl2N3O2
